US05140041
1-(2'-Nitrophenoxycarbonyl)-2-pyrrolidinone
To a solution of phosgen (6.12 g, 61.8 mmol) in anhydrous benzene (30 ml) was dropwise added under ice-cooling a solution of 2-nitrophenol (8.60 g, 61.8 mmol) and purified pyridine (4.88 g, 61.8 mmol) in anhydrous benzene (20 ml). The mixture was stirred for 30 min. at room temperature. From the reaction solution were separated precipitates by filtration, and a filtrate was evaporated under reduced pressure to give a colorless oily material. The oily material was dissolved in anhydrous benzene (20 ml), to which was added a solution of 1-trimethylsilyl-2-pyrrolidinone (4.00 g, 25.4 mmol) in anhydrous benzene (10 ml). The mixture was stirred at room temperature for 30 min. The reaction mixture was evaporated under reduced pressure to dryness to give a solid material. The desired product was separated using column chromatography on silica gel (eluted with chloroform-acetone 30:1→3:1). Recrystallization from ethanol afforded 1.98 g of colorless prisms. Yield 31.1%

reactant | phosgen | 61.8 mmol, 6.12 g | C(=O)(Cl)Cl | CCl2O
reactant | 2-nitrophenol | 61.8 mmol, 8.60 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | pyridine | 61.8 mmol, 4.88 g | N1=CC=CC=C1 | C5H5N
reactant | 1-trimethylsilyl-2-pyrrolidinone | 25.4 mmol, 4.00 g | C[Si](N1C(CCC1)=O)(C)C | C7H15NOSi
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 1-(2'-Nitrophenoxycarbonyl)-2-pyrrolidinone | 1.98 g, Yield 31.1% | [N+](=O)([O-])C1=C(OC(=O)N2C(CCC2)=O)C=CC=C1 | C11H10N2O5
